US07582626B2
g) 2,5-Diaminobenzenesulfonamide
A mixture of 2-amino-5-nitrobenzenesulfonamide (10 g, 46.08 mmol), 10% palladium on charcoal (˜1 g) in tetrahydrofuran (250 mL) was hydrogenated for 26 h at 25° C. under 1 atmosphere of hydrogen gas via balloon. The mixture was then filtered through Celite, washed with tetrahydrofuran, and the solvent removed in vacuo to afford the desired product. The catalyst/Celite mixture was slurried in methanol (400 mL) for 16 h, filtered and the solvent was removed in vacuo to afford a second batch of the desired product, 2,5-diaminobenzenesulfonamide (combined: 7.79 g, 41.65 mmol, 90.4%) as a light-brown solid. 1H NMR (400 MHz, DMSO-d6) δ: 4.54 (2H, bs), 4.98 (2H, bs), 6.55-6.60 (2H, m), 6.87 (1H, d, J=2.2 Hz), 6.99 (2H, bs). LC-MS (ESI) calcd for C6H9N3O2S 187.04, found 188.3 [M+H+].

reactant | 2-amino-5-nitrobenzenesulfonamide | 46.08 mmol, 10 g | NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C6H7N3O4S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | ˜1 g | [Pd] | Pd
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 2,5-Diaminobenzenesulfonamide | NC1=C(C=C(C=C1)N)S(=O)(=O)N | C6H9N3O2S
